US06043248
Preparation of 4-chloro-2-(naphthylmethyl)thio-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidine (Cpd #281)
2-(4-amino-6-hydroxy-2-(2-naphthylmethyl)thio-5-pyrimidinyl)-1-(dimethyl-tert-butylsilyloxy)ethane (Cpd #280; 104 mg, 0.23 mmol) is treated with 2-picoline (28 μL, 0.28 mmol) and phosphorus oxychloride (0.22 ml, 2.3 mmol). The solution is heated to reflux for 2 hours, stirred overnight at 22° C. then heated again to reflux for an additional hour. The solution was cooled and ice is added. The resultant solid was filtered, washed with cold 50% ethanol, and dried under vacuum. The recovered solids, 81 mg are purified by chromatography (SiO2, 4:1 hexane/ethyl acetate): 64 mg (0.19 mmol, 85%), mp 107-110° C.

reactant | 2-(4-amino-6-hydroxy-2-(2-naphthylmethyl)thio-5-pyrimidinyl)-1-(dimethyl-tert-butylsilyloxy)ethane | 0.23 mmol, 104 mg | NC1=NC(=NC(=C1CCO[Si](C(C)(C)C)(C)C)O)SCC1=CC2=CC=CC=C2C=C1 | C23H31N3O2SSi
reactant | 2-picoline | 0.28 mmol, 28 μL | N1=C(C=CC=C1)C | C6H7N
reactant | phosphorus oxychloride | 2.3 mmol, 0.22 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(naphthylmethyl)thio-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)SCC1=CC=CC3=CC=CC=C13)NCC2 | C17H14ClN3S
